US04101579
A solution of 5-(N,N-dibenzylglycyl)-o-anisamide (13.0g) in ethanol (800ml) was treated with excess solid sodium borohydride (ca.2g) and allowed to stand overnight at room temperature. The ethanol was then evaporated under reduced pressure and the residue partitioned between ethyl acetate and water. The ethyl acetate was separated, washed with brine, dried over MgSO4 and evaporated. The residue readily crystallised on trituration with ether to afford 5-(2-dibenzylamino-1-hydroxyethyl)-o-anisamide as a white solid (11.1g) m.p. 120°-123°.

reactant | 5-(N,N-dibenzylglycyl)-o-anisamide | 13.0g | C(C1=CC=CC=C1)N(CC(=O)C1=CC=C(C(C(=O)N)=C1)OC)CC1=CC=CC=C1 | C24H24N2O3
reactant | sodium borohydride | [BH4-].[Na+]
solvent | ethanol | 800ml | C(C)O | C2H6O
product | 5-(2-dibenzylamino-1-hydroxyethyl)-o-anisamide | 11.1g | C(C1=CC=CC=C1)N(CC(O)C1=CC=C(C(C(=O)N)=C1)OC)CC1=CC=CC=C1 | C24H26N2O3
